US06329550B1
4.4 Synthesis of N,N′-dibenzyl-2-((S)-2-thioacetyl-3-phenylpropionylamino)malonamide
Combine N,N′-dibenzyl-2-((R)-2-bromo-3-phenylpropionylamino)malonamide (0.49 g, 0.97 mmol) and thioacetic acid (0.172 mL, 2.42 mmol) in dimethylformamide (15 mL). Degas by repeated cycles of vacuum and filing with nitrogen. Add cesium carbonate (0.473 g, 1.45 mmol). After 18 hours, dilute the reaction mixture with water and extract twice with ethyl acetate. Combine the organic layers, extract with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/2 ethyl acetate/hexane to give the title compound (46%).

reactant | N,N′-dibenzyl-2-((R)-2-bromo-3-phenylpropionylamino)malonamide | 0.97 mmol, 0.49 g | C(C1=CC=CC=C1)NC(C(C(=O)NCC1=CC=CC=C1)NC([C@@H](CC1=CC=CC=C1)Br)=O)=O | C26H26BrN3O3
reactant | thioacetic acid | 2.42 mmol, 0.172 mL | C(C)(=S)O | C2H4OS
reactant | cesium carbonate | 1.45 mmol, 0.473 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N′-dibenzyl-2-((S)-2-thioacetyl-3-phenylpropionylamino)malonamide | 46% | C(C1=CC=CC=C1)NC(C(C(=O)NCC1=CC=CC=C1)NC([C@H](CC1=CC=CC=C1)C(C)=S)=O)=O | C28H29N3O3S
